US06756378B2
To a stirred solution of N-Boc-2-(S)-hydroxymethyl-5-(R)-phenylpyrrolidine (1.10 g, 3.97 mmol), triphenylphosphine (1.25 g, 4.76 mmol) and methyl 4-hydroxybenzoate (724 mg, 4.76 mmol) was added diisopropyl azodicarboxylate (955 ml, 4.76 mmol) at rt, and the resulting mixture was stirred at 60° C. for 45 min. The mixture was concentrated in vacuo, and the residue was chromatographed on silica gel with hexane-EtOAc (4:1) as eluent to give methyl 4-[N-Boc-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate (1.31 g, 80%) as a colorless oil. 1H-NMR (CDCl3) δ1.19 and 1.47 (brs, total 9 H), 2.09-2.15 (m, 3 H), 2.33-2.37 (m, 1 H ), 3.94 (s, 3 H), 4.30 (brs, 1 H), 4.41 (brs, 2 H), 4.77 (brs, 1 H), 7.03 (d, J=8.8 Hz, 2 H), 7.24-7.36 (m, 5 H), 8.03-8.06 (m, 2 H); MS (ESI) m/z, 412 (M++H).

reactant | N-Boc-2-(S)-hydroxymethyl-5-(R)-phenylpyrrolidine | 3.97 mmol, 1.10 g | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@@H]1C1=CC=CC=C1)CO | C16H23NO3
reactant | triphenylphosphine | 4.76 mmol, 1.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-hydroxybenzoate | 4.76 mmol, 724 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | diisopropyl azodicarboxylate | 4.76 mmol, 955 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | methyl 4-[N-Boc-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate | 1.31 g, 80% | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@@H]1C1=CC=CC=C1)COC1=CC=C(C(=O)OC)C=C1 | C24H29NO5
